US06465116B1
After hydrochloric acid was added to an acetic acid solution of anthrone, it was refluxed upon addition of zinc. Thereafter it was refined in accordance with an ordinary method to obtain 9,9′-bianthryl. After it was added little by little to a melt of aluminum chloride and sodium chloride, the reaction mixture was poured into diluted hydrochloric acid and a solids constituent was collected. The solids constituent thus obtained was refined in accordance with an ordinary method to obtain target dibenzo[a,o]perylene.

reactant | hydrochloric acid | Cl | ClH
reactant | anthrone | C1=CC=CC=2CC3=CC=CC=C3C(C12)=O | C14H10O
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9,9′-bianthryl | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C28H18
